US04632931
A. 2-[(4-Biphenylsulfonyl)amino]acetic acid
Glycine (5 mmol) is reacted with 4-biphenylsulfonyl chloride (about 5 mmol) in the presence of 1N NaOH solution (10 ml), ether (21 ml) and THF (2 ml) using the procedure described in Example 5 to give the title product.

reactant | Glycine | 5 mmol | NCC(=O)O | C2H5NO2
reactant | 4-biphenylsulfonyl chloride | about 5 mmol | C1(=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
reactant | NaOH | 1N, 10 ml | [OH-].[Na+]
reactant | ether | 21 ml | CCOCC | C4H10O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-[(4-Biphenylsulfonyl)amino]acetic acid | C1(=CC=C(C=C1)S(=O)(=O)NCC(=O)O)C1=CC=CC=C1 | C14H13NO4S
